US06005000
In a dry flask under argon, were mixed 1.3 g (5 mmol) of methyl (S)-(+)-2-[(1,1'-biphenyl)-4-yl]-2-hydroxypropionate, 1.7 mL (10 mmol) of 95% benzyloxyacetyl chloride and 6.1 mL of pyridine. The reaction stirred for 48 hours and was quenched by pouring into 100 mL of 10% aqueous HCl and 200 mL of ether. The ether fraction was separated and washed with 50 mL of 10% aqueous HCl, 50 mL of H2O, 2×50 mL of NaHCO3 solution, 50 mL of H2O, 50 mL of brine, dried (MgSO4) and concentrated. The product was purified over 250 g of SiO2 using initially EtOAc/hexanes (1/9) followed by EtOAc/hexanes (1.5/8.5) as eluant to yield 1.5 g (80% yield) of methyl (S)-(+)-2-[(1,1'-biphenyl)-4-yl]-2-(2-phenylmethoxyacetoyl)oxypropionate.

reactant | methyl (S)-(+)-2-[(1,1'-biphenyl)-4-yl]-2-hydroxypropionate | 5 mmol, 1.3 g | C1(=CC=C(C=C1)[C@](C(=O)OC)(C)O)C1=CC=CC=C1 | C16H16O3
reactant | benzyloxyacetyl chloride | 10 mmol, 1.7 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | pyridine | 6.1 mL | N1=CC=CC=C1 | C5H5N
product | methyl (S)-(+)-2-[(1,1'-biphenyl)-4-yl]-2-(2-phenylmethoxyacetoyl)oxypropionate | 1.5 g, 80% yield | C1(=CC=C(C=C1)[C@](C(=O)OC)(C)OC(COCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C25H24O5
